US07842688B2
e) N-(2-Bromo-5-methylphenyl)cyclopropanecarboxamide
The solution of 13.95 g of 2-bromo-5-methylphenylamine in 250 ml of chloroform is cooled to 0° C. with stirring and admixed with 12.6 ml of triethylamine. 7.56 ml of cyclopropanecarbonyl chloride are slowly added dropwise. The mixture is stirred for 1 hour each at 0° C. and at room temperature. The reaction mixture is poured onto water (400 ml) and extracted with dichloromethane (1×250 ml). The organic phases are washed with brine (350 ml), dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a white solid from the residue by means of crystallization from ethyl acetate. Rf=0.37 (1:4 EtOAc-heptane); Rt=4.19.

reactant | 2-bromo-5-methylphenylamine | 13.95 g | BrC1=C(C=C(C=C1)C)N | C7H8BrN
reactant | triethylamine | 12.6 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 7.56 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-Bromo-5-methylphenyl)cyclopropanecarboxamide | BrC1=C(C=C(C=C1)C)NC(=O)C1CC1 | C11H12BrNO
